US08026234B2
4-Amino-2-fluoro-3-methoxybenzoic acid:
A solution of 2-fluoro-3-methoxy-4-nitrobenzonitrile (170 mg) in H2SO4 and H2O (0.5 mL/0.5 mL) was heated at 100° C. for 18 h. After which, it was separated between ethyl acetate and water. Organic extract was dried and concentrated to give a residue, which was then dissolved in a mixture of methanol and acetic acid (2 mL/2 mL) and was hydrogenated using hydrogen balloon overnight. The solution was filtered through celite, and the filtrate concentrated to give a read solid as the product. [M+H] calc'd for C8H8FNO3, 186. found 186.

reactant | 2-fluoro-3-methoxy-4-nitrobenzonitrile | 170 mg | FC1=C(C#N)C=CC(=C1OC)[N+](=O)[O-] | C8H5FN2O3
reactant | hydrogen | [H][H] | H2
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | H2O | 0.5 mL | O | H2O
solvent | methanol | CO | CH4O
product | 4-Amino-2-fluoro-3-methoxybenzoic acid | NC1=C(C(=C(C(=O)O)C=C1)F)OC | C8H8FNO3
